US09227973B2
Step H: 3′-Methyl-2′,5′-dioxo-5,7-dihydrospiro[cyclopenta[b]pyridine-6,4′-imidazolidine]-3-carboxylic acid
To a solution of methyl 3′-methyl-2′,5′-dioxo-5,7-dihydrospiro[cyclopenta[b]pyridine-6,4′-imidazolidine]-3-carboxylate (25 mg, 0.091 mmol) in THF (0.5 mL) and H2O (0.3 mL) was added 1 N aqueous lithium hydroxide (0.27 mL, 0.27 mmol). The reaction was stirred at ambient temperature for 1 h, acidified by addition of 1 N hydrochloric acid, and concentrated in vacuo to provide the title compound. MS: m/z=262.1 (M+1). 1H NMR (500 MHz, CDCl3) δ 8.99 (s, 1H), 8.31 (s, 1H), 3.55 (m, 2H), 3.44 (d, 1H, J=18.3 Hz), 3.42 (d, 1H, J=17.6 Hz), 2.72 (s, 3H).

reactant | methyl 3′-methyl-2′,5′-dioxo-5,7-dihydrospiro[cyclopenta[b]pyridine-6,4′-imidazolidine]-3-carboxylate | 0.091 mmol, 25 mg | CN1C(NC(C12CC=1C(=NC=C(C1)C(=O)OC)C2)=O)=O | C13H13N3O4
reactant | lithium hydroxide | 0.27 mmol, 1 N, 0.27 mL | [OH-].[Li+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | H2O | 0.3 mL | O | H2O
product | 3′-Methyl-2′,5′-dioxo-5,7-dihydrospiro[cyclopenta[b]pyridine-6,4′-imidazolidine]-3-carboxylic acid | CN1C(NC(C12CC=1C(=NC=C(C1)C(=O)O)C2)=O)=O | C12H11N3O4
